US05639780
Step 1: Methyl 4-(5-methoxy-2-methyl-1H-indol-3-yl)-4-oxobutanoate
To a solution of ethylmagnesium bromide in ether (3.0M; 7.1 mL; aldrich) was added a solution of 5-methoxy-2-methylindole (3.29 g) in ether (18 mL) at r.t. After 20 min, addition of a solution of zinc chloride in ether (1M; 20.4 mL; aldrich) resulted in the formation of a thick yellow solid. The suspension was stirred mechanically for 30 min before the rapid addition of a solution of 3-carbomethoxypropionyl chloride (2.6 mL) in ether (10 mL). The resulting mixture was vigorously stirred at r.t. for 3 h before the addition of saturated aqueous NH4Cl and dichloromethane. The two phases were separated and the organic phase was washed successively with saturated aqueous NaHCO3 and brine, dried (MgSO4) and evaporated. Trituration of the residue in ether afforded the title compound as a pink solid.

reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | 5-methoxy-2-methylindole | 3.29 g | COC=1C=C2C=C(NC2=CC1)C | C10H11NO
reactant | 3-carbomethoxypropionyl chloride | 2.6 mL | C(=O)(OC)CCC(=O)Cl | C5H7ClO3
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ether | 3.0M, 7.1 mL | CCOCC | C4H10O
solvent | ether | 18 mL | CCOCC | C4H10O
solvent | ether | 10 mL | CCOCC | C4H10O
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
solvent | dichloromethane | ClCCl | CH2Cl2
product | Methyl 4-(5-methoxy-2-methyl-1H-indol-3-yl)-4-oxobutanoate | COC=1C=C2C(=C(NC2=CC1)C)C(CCC(=O)OC)=O | C15H17NO4
